US04554100
3-Carboxypropionylalanyl Proline Ethylamide
500 mg of succinic anhydride was added to a solution of 500 mg of alanyl proline ethylamide in form of dioxane (10 ml) and 0.25 ml of dimethylformamide and the reaction solution heated under reflux for 30 minutes. Then the solution was evaporated and the residue crystallized from 10 ml of acetone and 30 ml of ether. 510 mg of a product having a melting point of 139 to 141 degrees C. was obtained. [α[D20 -129.2 degrees (c 0.3; 50% methyl alcohol).

reactant | succinic anhydride | 500 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | alanyl proline ethylamide | 500 mg | C(C)NC([C@H]1N(CCC1)C([C@@H](N)C)=O)=O | C10H19N3O2
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
reactant | dimethylformamide | 0.25 ml | CN(C=O)C | C3H7NO
solvent | methyl alcohol | CO | CH4O
product | 3-Carboxypropionylalanyl Proline Ethylamide | C(C)NC([C@H]1N(CCC1)C([C@@H](NC(CCC(=O)O)=O)C)=O)=O | C14H23N3O5
